US05296478
1,3-dihydro-3,3-bis(benzyl)-1-(1-piperidinyl)-2H-indol-2-one
By substituting 1,3-dihydro-1-(1-piperidinyl)-2H-indol-2-one and benzyl chloride in Example 8, the desired product was obtained; m.p. 94°-96° C. (hexane). Anal. (C27H28N2O):C,H,N.

reactant | 1,3-dihydro-1-(1-piperidinyl)-2H-indol-2-one | N1(CCCCC1)N1C(CC2=CC=CC=C12)=O | C13H16N2O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1,3-dihydro-3,3-bis(benzyl)-1-(1-piperidinyl)-2H-indol-2-one | C(C1=CC=CC=C1)C1(C(N(C2=CC=CC=C12)N1CCCCC1)=O)CC1=CC=CC=C1 | C27H28N2O
